US06172057B2
2-[8-(1-Carboxy-ethanesulfonyl)-octane-1-sulfonyl]-propionic acid was prepared according to general method as outline in example 1. Starting from 2-[8-(1-carboxy-ethanesulfonyl)-octane-1-sulfonyl]-propionic acid ethyl ester (3.0 g, 6.8 mmol), ethanol (15 mL) and 10 N sodium hydroxide (15 mL). Yield 2.7 g (98%); white solid mp 99-102° C.; MS 387 (M+NH3)+.

reactant | 2-[8-(1-carboxy-ethanesulfonyl)-octane-1-sulfonyl]-propionic acid ethyl ester | 6.8 mmol, 3.0 g | C(C)OC(C(C)S(=O)(=O)CCCCCCCCS(=O)(=O)C(C)C(=O)O)=O | C16H30O8S2
reactant | sodium hydroxide | 10 N, 15 mL | [OH-].[Na+]
reactant | NH3 | N | H3N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-[8-(1-Carboxy-ethanesulfonyl)-octane-1-sulfonyl]-propionic acid | C(=O)(O)C(C)S(=O)(=O)CCCCCCCCS(=O)(=O)C(C(=O)O)C | C14H26O8S2
